* C:\Users\demxc\OneDrive - University of Cape Town\2026\EEE4113F\Project Sandy\LT SPICE\Draft Power Sim.asc
* Generated by LTspice 26.0.1 for Windows.
V1 3.7V 0 3.7 Rser={R_batt}
X§U1 3.7V 0 3.7V NC_01 3.3V_PWR LT1761-3.3 ;§pnba IN)GND)_SHDN)BYP)OUT
C1 3.3V_PWR 0 2200µ
C2 3.7V 0 2200µ
I1 3.3V_PWR 0 PULSE(10u 250m 10m 1u 1u 15m)
V2 LED_CTRL 0 PULSE(0 3.3 20m 1u 1u 50m)
R1 3.7V N002 0.2
D2 N002 N004 Blue_450nm
C4 3.3V_PWR 0 2200µ
I2 N001 0 PULSE(0 {I2} 20m 1u 1u 15m 40m)
R2 Out N001 10Meg
C5 Out N001 2p
C6 3.7V 0 2200µ
Q1 N003 N005 0 0 BC847B
R3 N005 0 5
R4 N003 LED_CTRL 10k
C3 N003 N005 1n
M§FQP30N06L N004 N003 N005 N005 NMOS
X§U4 0 N001 3.3V_PWR 0 Out level2 Avol=1Meg GBW=1Meg Slew=0.6Meg Ilimit=25m Rail=20m Vos=4.6m En=28n Enk=0 In=0 Ink=0 Rin=1T ;§pnba In+)In-)V+)V-)OUT
.model D D
.lib C:\Users\demxc\AppData\Local\LTspice\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\demxc\AppData\Local\LTspice\lib\cmp\standard.bjt
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\demxc\AppData\Local\LTspice\lib\cmp\standard.mos
.tran 0.14
.step param R_batt 0.1 3.0 0.1
.model Blue_450nm D(Is=1e-15 N=3.7 Rs=1.5 Eg=2.7 Cjo=50p Iave=100m)
.model FQP30N06L NMOS(Level=3 Vto=2.1 Rd=0.035 Rs=0.02 Rb=0.01
+ Kp=20 Lambda=0.01 Cgso=1e-9 Cgdo=2e-10 Tox=1e-7
+ Vmax=1e5 Xj=5e-7)
.param I2=50n
.step param I2 list 2n 20n 50n 130n 250n 330n
* Library below included based on ModelFile attribute of instance X§U1 (C:\Users\demxc\AppData\Local\LTspice\lib\sym\PowerProducts\LT1761-3.3.asy)
.lib LT1761.lib
* Library below included based on ModelFile attribute of instance X§U4 (C:\Users\demxc\AppData\Local\LTspice\lib\sym\OpAmps\UniversalOpAmp2.asy)
.lib UniversalOpAmp2.lib
.backanno
.end
